US07648985B2
(iv): 4-Cyano-N-methyl-N-[2-(9-oxa-3,7-diaza-bicyclo[3.3.1]non-3-yl)-ethyl]-benzenesulfonamide, hydrochloride salt
Step (iii) product 7-{2-[(4-Cyano-benzenesulfonyl)-methyl-amino]-ethyl}-9-oxa-3,7-diaza-bicyclo[3.3.1]nonane-3-carboxylic acid tert-butyl ester (2.2 g) was dissolved in dioxane (10 ml) and to which HCl in dioxane (saturated, 20 ml) was added drop by drop at RT under nitrogen atmosphere. Solvent was decanted, the precipitated solid was washed with dry diethyl ether (three times) and dried under vacuum to yield the title compound (2 g) as white powder.

reactant | 7-{2-[(4-Cyano-benzenesulfonyl)-methyl-amino]-ethyl}-9-oxa-3,7-diaza-bicyclo[3.3.1]nonane-3-carboxylic acid tert-butyl ester | 2.2 g | C(C)(C)(C)OC(=O)N1CC2CN(CC(C1)O2)CCN(C)S(=O)(=O)C2=CC=C(C=C2)C#N | C21H30N4O5S
reactant | HCl | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 4-Cyano-N-methyl-N-[2-(9-oxa-3,7-diaza-bicyclo[3.3.1]non-3-yl)-ethyl]-benzenesulfonamide, hydrochloride salt | 2 g | Cl.C(#N)C1=CC=C(C=C1)S(=O)(=O)N(CCN1CC2CNCC(C1)O2)C | InChI=1S/C16H22N4O3S.ClH/c1-19(24(21,22)16-4-2-13(8-17)3-5-16)6-7-20-11-14-9-18-10-15(12-20)23-14;/h2-5,14-15,18H,6-7,9-12H2,1H3;1H
